US08937078B2
Step A: Preparation of 1-(6-ethynyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid, ethyl ester.
The titled compound was prepared in a manner analogous to Example 27, steps C-D, using 4-ethynylaniline in step C, and with the addition of 4.0 equivalents of 2,6-di-tert-butylpyridine in step D. The crude product contained a 2.4:1 mixture of the titled product and 1-[6-(1-chloro-vinyl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid, ethyl ester. A portion of this mixture was purified by HPLC to afford 1-(6-ethynyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid, ethyl ester. MS (ESI): mass calcd. for C16H12N4O3, 308.1; m/z found, 309.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 12.98 (br s, 1H), 8.95 (s, 1H), 8.27 (s, 1H), 8.07 (s, 1H), 7.82 (dd, J=8.4, 1.9 Hz, 1H), 7.72-7.54 (m, 1H), 4.31 (s, 1H), 4.23 (q, J=7.1 Hz, 2H), 1.26 (t, J=7.1 Hz, 3H).

reactant | 4-ethynylaniline | C(#C)C1=CC=C(N)C=C1 | C8H7N
reactant | 2,6-di-tert-butylpyridine | 4.0 equivalents | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | 1-[6-(1-chloro-vinyl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid, ethyl ester | ClC(=C)C=1C=C2C(NC(=NC2=CC1)N1N=CC(=C1)C(=O)OCC)=O | C16H13ClN4O3
product | 1-(6-ethynyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid, ethyl ester | C(#C)C=1C=C2C(NC(=NC2=CC1)N1N=CC(=C1)C(=O)OCC)=O | C16H12N4O3
